US05155108
Production of 3-chloro-6-[(2,2-dimethyl-3-sulfamoylpropyl)oxy]imidazo[1,2-b]pyridazine
To a solution of 1.67 g of 3-hydroxy-2,2-dimethyl-1-propanesulfonamide in 30 ml of DMF was added 0.8 g of sodium hydride, followed by heating at 70° C. for an hour. The mixture to which 1.88 g of 6-chloroimidazo [1,2-b]pyridazine was added was heated for 4.5 hours. The reaction mixture was distilled to remove the solvent under reduced pressure and 50 ml of ice-water was added to the residue. The mixture was adjusted to pH 6.0 with 1N-hydrochloric acid and then extracted with tetrahydrofuran and ethyl acetate (1:1). The extract was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was subjected to a silica gel column chromatography, eluting with chloroform and methanol (20:1). The corresponding combined fractions were concentrated to obtain 1.56 g of the title compound.

reactant | 3-hydroxy-2,2-dimethyl-1-propanesulfonamide | 1.67 g | OCC(CS(=O)(=O)N)(C)C | C5H13NO3S
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | 6-chloroimidazo [1,2-b]pyridazine | 1.88 g | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-chloro-6-[(2,2-dimethyl-3-sulfamoylpropyl)oxy]imidazo[1,2-b]pyridazine | 1.56 g | ClC1=CN=C2N1N=C(C=C2)OCC(CS(N)(=O)=O)(C)C | C11H15ClN4O3S
